US09353096B2
In a 500 mL round-bottomed flask, methyl 2-bromo-2-(3-methoxyphenyl)acetate (5.2 g, 20.1 mmol), 2-aminoethanethiol (1.55 g, 20.1 mmol) and potassium carbonate (5.55 g, 40.1 mmol) were combined with ethanol (150 ml) to give a light yellow suspension. The resultant mixture was stirred at 85° C. (bath temp.) for 2.5 h. No starting material remained. The intermediate, [2-amino-1-(3-methoxy-phenyl)-ethylsulfanyl]-acetic acid methyl ester, was the major product with 25% of the cyclized product. The mixture was further heated at reflux for an additional 4.5 h. Complete by LCMS. Reaction mixture was allowed to cool to room temperature and sit overnight. The reaction mixture was poured into 500 mL H2O and extracted with EtOAc (3×300 mL). The combined organic layers were washed with brine, dried over MgSO4 and concentrated in vacuo. The resulting pale yellow solid was triturated with cold ether and dried under vacuum to afford 2-(3-methoxyphenyl)thiomorpholin-3-one (3.7 g, 83%) as a yellow solid. (M+H)+=224 m/e. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 2.88 (td, J=5.81, 2.78 Hz, 2H) 3.67 (td, J=5.81, 3.54 Hz, 2H) 3.82 (s, 3H) 4.63 (s, 1H) 6.42 (br. s., 1H) 6.85 (ddd, J=8.34, 2.53, 0.76 Hz, 1H) 7.00 (t, J=2.15 Hz, 1H) 7.01-7.05 (m, 1H) 7.29 (t, J=7.93, 1H).

reactant | methyl 2-bromo-2-(3-methoxyphenyl)acetate | 20.1 mmol, 5.2 g | BrC(C(=O)OC)C1=CC(=CC=C1)OC | C10H11BrO3
reactant | 2-aminoethanethiol | 20.1 mmol, 1.55 g | NCCS | C2H7NS
reactant | potassium carbonate | 40.1 mmol, 5.55 g | C([O-])([O-])=O.[K+].[K+]
reactant | [2-amino-1-(3-methoxy-phenyl)-ethylsulfanyl]-acetic acid methyl ester | COC(CSC(CN)C1=CC(=CC=C1)OC)=O | C12H17NO3S
solvent | H2O | 500 mL | O | H2O
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 2-(3-methoxyphenyl)thiomorpholin-3-one | 3.7 g, 83% | COC=1C=C(C=CC1)C1C(NCCS1)=O | C11H13NO2S
